US07465731B2
The mixture of ethyl (2Z)-3-(5-chloro-6-{[(3R)-1-(cyclohexylmethyl)-3-piperidinyl]amino}-3-pyridinyl)-2-fluoroacrylate (0.73 g) and 1N-NaOH (3.44 mL) in MeOH (20 mL) was stirred at 60° C. for 3 hr. To the reaction mixture was added 1N-NaCl 3.44 mL and the mixture was evaporated in vacuo to give (2Z)-3-(5-chloro-6-{[(3R)-1-(cyclohexylmethyl)-3-piperidinyl]amino}-3-pyridinyl)-2-fluoroacrylic acid (0.68 g).

reactant | ethyl (2Z)-3-(5-chloro-6-{[(3R)-1-(cyclohexylmethyl)-3-piperidinyl]amino}-3-pyridinyl)-2-fluoroacrylate | 0.73 g | ClC=1C=C(C=NC1N[C@H]1CN(CCC1)CC1CCCCC1)\C=C(\C(=O)OCC)/F | C22H31ClFN3O2
reactant | NaOH | 3.44 mL | [OH-].[Na+]
reactant | NaCl | 3.44 mL | [Na+].[Cl-]
solvent | MeOH | 20 mL | CO | CH4O
product | (2Z)-3-(5-chloro-6-{[(3R)-1-(cyclohexylmethyl)-3-piperidinyl]amino}-3-pyridinyl)-2-fluoroacrylic acid | 0.68 g | ClC=1C=C(C=NC1N[C@H]1CN(CCC1)CC1CCCCC1)\C=C(\C(=O)O)/F | C20H27ClFN3O2
